### PR TITLE
[Merged by Bors] - feat: define `RegularNormedAlgebra` and add the norm on the `Unitization`

### PR DESCRIPTION
**Pull request by j-loreaux**
This constructs a norm on the `Unitization 𝕜 A` of a (possibly non-unital) normed algebra `A`, subject to the condition that `ContinuousLinearMap.mul 𝕜 A` is an isometry. A norm on `A` satisfying this property is said to be regular so we add the class `RegularNormedAlgebra` where this construction makes sense.

This norm is particularly nice because, among norms on the unitization of a `RegularNormedAlgebra`, this norm is minimal. Moreover, it is the (necessarily unique) C⋆-norm on the unitization when the norm on `A` is a C⋆-norm (see #5393)

- [x] depends on: #5741

---

I'm open to making this a scoped instance, but I think this is the norm we will want most often. The norm arising from `PiLp 1` is another possibility, and would be available in greater generality (no need for `RegularNormedAlgebra`), but I think if we want that we should perhaps use a type synonym.

One other note: I have removed the `after-port` tag because I feel the changes to existing material are minimal enough and used in few enough places, but if anyone feels differently they can add it back. The real changes to existing material occur in `Analysis.NormedSpace.OperatorNorm`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#5741
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#5741~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 1]
```diff
@@ -0,0 +1,266 @@
...
+
+/-- `leftRegRep` stands for "left regular representation" which is multiplication on the left. So,
+given `(k, a) : Unitization 𝕜 A`, the second coordinate of `Unitization.leftRegRep (k, a)` should
+be the representation of `Unitization 𝕜 A` on `A →L[𝕜] A`; note that this is not just
+`NonUnitalAlgHom.Lmul` for a few reasons: (a) that would either be `A` acting on `A`, or
+(b) `Unitization 𝕜 A` acting on `Unitization 𝕜 A`, and (c) that's a `NonUnitalAlgHom` but
+here we need an `AlgHom`. In addition, the first coordinate of `Unitization.leftRegRep (k, a)`
+should just be `k`. See `Unitization.leftRegRep_apply` also. -/
+noncomputable def leftRegRep : Unitization 𝕜 A →ₐ[𝕜] 𝕜 × (A →L[𝕜] A) :=
+  (lift 0).prod (lift <| NonUnitalAlgHom.Lmul 𝕜 A)
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:82]: Is this terminology standard? I had in mind that the left regular representation of an algebra was just the multiplication on itself, but maybe that is only satisfying for unital algebras.

File: Mathlib/Analysis/NormedSpace/OperatorNorm.lean [hunk 2]
```diff
@@ -1147,36 +1147,53 @@ theorem op_norm_mulLeftRight_le : ‖mulLeftRight 𝕜 𝕜'‖ ≤ 1 :=
   op_norm_le_bound _ zero_le_one fun x => (one_mul ‖x‖).symm ▸ op_norm_mulLeftRight_apply_le 𝕜 𝕜' x
 #align continuous_linear_map.op_norm_mul_left_right_le ContinuousLinearMap.op_norm_mulLeftRight_le
 
-end NonUnital
-
-section Unital
+/-- This is a mixin class for non-unital normed algebras which states that the left-regular
+representation of the algebra on itself is isometric. Every unital normed algebra with `‖1‖ = 1` is
+a regular normed algebra (see `NormedAlgebra.instRegularNormedAlgebra`). In addiiton, so is every
+C⋆-algebra, non-unital included (see `CstarRing.instRegularNormedAlgebra`), but there are yet other
```
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/OperatorNorm.lean:1153]: Yes, it's in #5393

File: Mathlib/Analysis/NormedSpace/Unitization.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:82]: No, it's not standard. I'm open to other names, especially because the current name doesn't take the first coordinate into account either. Maybe `liftLeftRefRep`?

Comment (ADedecker) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:82]: What do you think of `splitMul`? Because it's exactly the multiplication by an element of `Unitization 𝕜 A`, but splitted as an action on `𝕜` and an action on `A`.

Another option, as suggested by [this answer on MO](https://mathoverflow.net/a/210217), is to actually consider the mutliplication as a map `Unitization 𝕜 A →ₐ[𝕜] (𝕜 × A) →L[𝕜] (𝕜 × A)`, which should give the same norm from what I understand. But that may be a bit more work, and I'm not sure how useful that is.

Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:82]: @ADedecker `splitMul` is fine. However, as for the answer on MO, I believe my construction is nicer. In the MO version, you must first bundle the function `fun a ↦ (0 : 𝕜 →L[𝕜] 𝕜).prodMap (ContinuousLinearMap.mul 𝕜 A a)` from `A` to `(𝕜 × A) →L[𝕜] (𝕜 × A)` into a non-unital algebra homomorphism, called `foo 𝕜 A`, then the algebra homomorphism described on MO is `Unitization.lift (foo 𝕜 A)`. I really don't think this any better, and in fact, I think it would be significantly harder to work with. And just to be clear, it's not like the MO construction avoids the need for `ContinuousLinearMap.mul 𝕜 A` to be injective, that is still necessary to ensure injectivity of this algebra homomorphism (as should be clear from the above).

Comment (ADedecker) [reply Mathlib/Analysis/NormedSpace/Unitization.lean]: I understand my mistake: I thought that `foo 𝕜 A` was exactly mutiplication in the unitization (which is clearly injective), but there's a term missing. So indeed this doesn't simplify anything.

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 3]
```diff
@@ -0,0 +1,265 @@
...
+
+attribute [local instance] Unitization.normedAlgebraAux
+
+theorem norm_def (x : Unitization 𝕜 A) : ‖x‖ = ‖splitMul 𝕜 A x‖ :=
+  rfl
+
+/-- This is often the more useful lemma to rewrite the norm as opposed to `Unitization.norm_def`. -/
+theorem norm_eq_sup (x : Unitization 𝕜 A) :
+    ‖x‖ = ‖x.fst‖ ⊔ ‖algebraMap 𝕜 (A →L[𝕜] A) x.fst + mul 𝕜 A x.snd‖ := by
+  rw [norm_def, splitMul_apply, Prod.norm_def, sup_eq_max]
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:147]: The statements of these two lemmas mention the temporary instances, which could get a bit annoying. Two solutions I see are (1) add `'` to these ones and restate them correctly at the end of the file (2) declare the norm as a (non-temporary) instance of `Norm` from the beginning

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 4]
```diff
@@ -0,0 +1,265 @@
...
+variable (𝕜 A)
+
+/-- The identity map between `Unitization 𝕜 A` and `𝕜 × A` as an `AddEquiv`. -/
+protected def addEquiv : Unitization 𝕜 A ≃+ 𝕜 × A :=
+  AddEquiv.refl _
+
+variable {𝕜 A}
+
+theorem lipschitzWith_addEquiv :
+    LipschitzWith (2 : ℝ).toNNReal (Unitization.addEquiv 𝕜 A) := by
```
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:158]: After some offline discussion, we came to the conclusion that this approach doesn't really avoid the need for the local instances because the argument that the bornologies coincide still uses the metric structure.

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 5]
```diff
@@ -0,0 +1,265 @@
...
+theorem splitMul_injective_of_clm_mul_injective
+    (h : Function.Injective (mul 𝕜 A)) :
+    Function.Injective (splitMul 𝕜 A) := by
+  rw [injective_iff_map_eq_zero]
+  intro x hx
+  induction x using Unitization.ind
+  rw [map_add] at hx
+  simp only [Prod.mk_add_mk, add_zero, fst_inl, splitMul_apply,
+    snd_inl, snd_inr, Prod.mk_eq_zero, zero_add, fst_inr,
+    map_zero, splitMul_apply, add_zero, Prod.mk_eq_zero] at hx
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:102]: Having duplicate lemmas in a `simp only` feels like a typo?

File: Mathlib/Analysis/NormedSpace/Unitization.lean (hunk 4 above)
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:158]:
```suggestion
theorem lipschitzWith_addEquiv :
    LipschitzWith 2 (Unitization.addEquiv 𝕜 A) := by
  rw [← Real.toNNReal_ofNat]
```

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 6]
```diff
@@ -0,0 +1,265 @@
...
+  rw [norm_eq_sup, Prod.norm_def]
+  refine' max_le _ _
+  · rw [sup_eq_max, mul_max_of_nonneg _ _ (zero_le_two : (0 : ℝ) ≤ 2)]
+    exact le_max_of_le_left ((le_add_of_nonneg_left (norm_nonneg _)).trans_eq (two_mul _).symm)
+  · change ‖x.snd‖ ≤ _
+    nontriviality A
+    rw [two_mul]
+    calc
+      ‖x.snd‖ = ‖mul 𝕜 A x.snd‖ :=
+        ((AddMonoidHomClass.isometry_iff_norm (mul 𝕜 A)).mp (isometry_mul 𝕜 A) _).symm
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:169]:
```suggestion
        .symm <| (isometry_mul 𝕜 A).norm_map_of_map_zero (map_zero _) _
```

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 7]
```diff
@@ -0,0 +1,265 @@
...
+
+theorem lipschitzWith_addEquiv :
+    LipschitzWith (2 : ℝ).toNNReal (Unitization.addEquiv 𝕜 A) := by
+  refine' AddMonoidHomClass.lipschitz_of_bound (Unitization.addEquiv 𝕜 A) 2 fun x => _
+  rw [norm_eq_sup, Prod.norm_def]
+  refine' max_le _ _
+  · rw [sup_eq_max, mul_max_of_nonneg _ _ (zero_le_two : (0 : ℝ) ≤ 2)]
+    exact le_max_of_le_left ((le_add_of_nonneg_left (norm_nonneg _)).trans_eq (two_mul _).symm)
+  · change ‖x.snd‖ ≤ _
+    nontriviality A
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:165]:
```suggestion
  · nontriviality A
```

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 8]
```diff
@@ -0,0 +1,265 @@
...
+/-- Pull back the normed algebra structure from `𝕜 × (A →L[𝕜] A)` to `Unitization 𝕜 A` using the
+algebra homomorphism `Unitization.splitMul 𝕜 A`. -/
+instance instNormedAlgebra : NormedAlgebra 𝕜 (Unitization 𝕜 A) where
+  norm_smul_le k x := by
+    rw [norm_def, map_smul, norm_smul, ← norm_def]
+
+-- this should go in `Algebra.Algebra.Unitization`
+instance instNontrivial {𝕜 A} [Nontrivial 𝕜] [Nonempty A] :
+    Nontrivial (Unitization 𝕜 A) :=
+  nontrivial_prod_left
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:247]: I agree with your comment :smile:

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 9]
```diff
@@ -0,0 +1,265 @@
...
+
+variable (𝕜 A : Type _) [NontriviallyNormedField 𝕜] [NonUnitalNormedRing A]
+variable [NormedSpace 𝕜 A] [IsScalarTower 𝕜 A A] [SMulCommClass 𝕜 A A]
+
+open ContinuousLinearMap
+
+/-- Multiplication on the left in a non-unital algebra `A` as a non-unital algebra homomorphism
+into the algebra of *continuous* linear maps. This has more algebraic structure than
+`ContinuousLinearMap.mul`, but there is no longer continuity bundled in the first coordinate. -/
+noncomputable def NonUnitalAlgHom.Lmul : A →ₙₐ[𝕜] A →L[𝕜] A :=
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:58]: This should probably move to an earlier file. Also I'm not sure about the name, does `lmul` stand for "left multiplication" or "linear multiplication"?

Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:58]: I believe it means "linear" because [ContinuousLinearMap.mulLeftRight](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/NormedSpace/OperatorNorm.html#ContinuousLinearMap.mulLeftRight) used to be called `continuous_linear_map.lmul_left_right`.

Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Unitization.lean]: moved to `OperatorNorm` file, immediately after `ContinuousLinearMap.mul`

File: Mathlib/Analysis/NormedSpace/Unitization.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:137]: since it seems to behave, are you okay if we leave it as is?

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 10]
```diff
@@ -0,0 +1,248 @@
...
+  `Unitization.instCompleteSpace`: when `A` is a non-unital Banach `𝕜`-algebra with a regular norm,
+  then `Unitization 𝕜 A` is a unital Banach `𝕜`-algebra with `‖1‖ = 1`.
+- `Unitization.norm_inr`, `Unitization.isometry_inr`: the natural inclusion `A → Unitization 𝕜 A`
+  is an isometry, or in mathematical parlance, the norm on `A` extends to a norm on
+  `Unitization 𝕜 A`.
+
+## Implementation details
+
+We ensure that the uniform structure, and hence also the topological structure, is definitionally
+equal to the pullback of `instUniformSpaceProd` allong `Unitization.addEquiv` (this is essentially
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:52]: equal to the pullback of `instUniformSpaceProd` along `Unitization.addEquiv` (this is essentially

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 11]
```diff
@@ -0,0 +1,248 @@
...
+-/
+
+variable (𝕜 A : Type _) [NontriviallyNormedField 𝕜] [NonUnitalNormedRing A]
+variable [NormedSpace 𝕜 A] [IsScalarTower 𝕜 A A] [SMulCommClass 𝕜 A A]
+
+open ContinuousLinearMap
+
+namespace Unitization
+
+/-- Given `(k, a) : Unitization 𝕜 A`, the second coordinate of `Unitization.splitMul (k, a)` iw
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:65]:
```suggestion
/-- Given `(k, a) : Unitization 𝕜 A`, the second coordinate of `Unitization.splitMul (k, a)` is
```

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 12]
```diff
@@ -0,0 +1,248 @@
...
+the natural representation of `Unitization 𝕜 A` on given by multiplication on the left `A →L[𝕜] A`;
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:66]:
```suggestion
the natural representation of `Unitization 𝕜 A` on `A` given by multiplication on the left `A →L[𝕜] A`;
```
Is that what you wanted to write?

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 13]
```diff
@@ -0,0 +1,248 @@
...
+        norm_add_le _ _
+      _ = ‖x.fst‖ + ‖x.snd‖ := by
+        rw [norm_algebraMap', (AddMonoidHomClass.isometry_iff_norm (mul 𝕜 A)).mp (isometry_mul 𝕜 A)]
+      _ ≤ _ := (add_le_add (le_max_left _ _) (le_max_right _ _)).trans_eq (two_mul _).symm
+
+open Bornology Filter
+open scoped Uniformity
+
+theorem uniformity_eq_aux :
+    @uniformity _ (instUniformSpaceProd.comap <| addEquiv 𝕜 A) = 𝓤 (Unitization 𝕜 A) := by
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:184]: I think you could use [Topology.«term𝓤[_]»](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/Basic.html#Topology.%C2%ABterm%F0%9D%93%A4[_]%C2%BB) to make this line a bit more readable

Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:184]: I thought that existed but it didn't work because I didn't have that scope open. Grrr... Why is it in the Topology namespace?

Comment (ADedecker) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:184]: It shouldn't, unless we decide to put all uniformity notations in `Topology`, that would make sense too.

Comment (ADedecker) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:184]: #6565

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 14]
```diff
@@ -0,0 +1,248 @@
...
+
+/-- Pull back the normed ring structure from `𝕜 × (A →L[𝕜] A)` to `Unitization 𝕜 A` using the
+algebra homomorphism `Unitization.splitMul 𝕜 A`. This does not give us the desired topology,
+uniformity or bornology on `Unitization 𝕜 A` (which we want to agree with `Prod`), so we only use
+it as a local instance to build the real one. -/
+@[reducible]
+noncomputable def normedRingAux : NormedRing (Unitization 𝕜 A) :=
+  @NormedRing.induced _ (Unitization 𝕜 A) (𝕜 × (A →L[𝕜] A)) Unitization.instRing
+    Prod.normedRing _ (splitMul 𝕜 A) (splitMul_injective 𝕜 A)
+-- ummmm... what? why does Lean need me to fill in these instances?
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:118]:
```suggestion
-- todo: why does Lean need these instances explictly?
```

I didn't understand it either, so let's just keep it as a TODO for now.

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 15]
```diff
@@ -0,0 +1,248 @@
...
+  instUniformSpaceProd.comap (addEquiv 𝕜 A)
+
+/-- The bornology on `Unitization 𝕜 A` is inherited from `𝕜 × A`. -/
+instance instBornology : Bornology (Unitization 𝕜 A) :=
+  Bornology.induced <| addEquiv 𝕜 A
+
+/-- `Unitization 𝕜 A` is complete whenever `𝕜` and `A` are also.  -/
+instance instCompleteSpace [CompleteSpace 𝕜] [CompleteSpace A] :
+    CompleteSpace (Unitization 𝕜 A) :=
+  have : UniformEmbedding (addEquiv 𝕜 A) := ⟨⟨rfl⟩, (addEquiv 𝕜 A).injective⟩
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:208]: Could you make that a separate lemma? That way we can access the topology and uniform structure without actually unfolding it.

**Review by ADedecker — COMMENTED** [review]
Thanks, and sorry for the slow review!

bors d+

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 16]
```diff
@@ -0,0 +1,251 @@
...
+
+namespace Unitization
+
+/-- Given `(k, a) : Unitization 𝕜 A`, the second coordinate of `Unitization.splitMul (k, a)` is
+the natural representation of `Unitization 𝕜 A` on `A` given by multiplication on the left in
+`A →L[𝕜] A`; note that this is not just `NonUnitalAlgHom.Lmul` for a few reasons: (a) that would
+either be `A` acting on `A`, or (b) `Unitization 𝕜 A` acting on `Unitization 𝕜 A`, and (c) that's a
+`NonUnitalAlgHom` but here we need an `AlgHom`. In addition, the first coordinate of
+`Unitization.splitMul (k, a)` should just be `k`. See `Unitization.splitMul_apply` also. -/
+noncomputable def splitMul : Unitization 𝕜 A →ₐ[𝕜] 𝕜 × (A →L[𝕜] A) :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:71]: I'm surprised this is non-computable!

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 17]
```diff
@@ -0,0 +1,251 @@
...
+/-- This is often the more useful lemma to rewrite the norm as opposed to `Unitization.norm_def`. -/
+theorem norm_eq_sup (x : Unitization 𝕜 A) :
+    ‖x‖ = ‖x.fst‖ ⊔ ‖algebraMap 𝕜 (A →L[𝕜] A) x.fst + mul 𝕜 A x.snd‖ := by
+  rw [norm_def, splitMul_apply, Prod.norm_def, sup_eq_max]
+
+variable (𝕜 A)
+
+/-- The identity map between `Unitization 𝕜 A` and `𝕜 × A` as an `AddEquiv`. -/
+def addEquiv : Unitization 𝕜 A ≃+ 𝕜 × A :=
+  AddEquiv.refl _
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:143]: Can you move this to `Algebra/Algebra/Unitization.lean`?

File: Mathlib/Analysis/NormedSpace/Unitization.lean (hunk 16 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:71]: Hmmm... it's not. But I think I added it there originally because some IR check failed. It no longer seems to be complaining though, so I've removed `noncomputable`.

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 18]
```diff
@@ -0,0 +1,243 @@
...
+Authors: Jireh Loreaux
+-/
+
+import Mathlib.Algebra.Algebra.Unitization
+import Mathlib.Analysis.NormedSpace.OperatorNorm
+
+/-!
+# Unitization norms
+
+Given a not necessarily unital normed `𝕜`-algebra `A`, it is frequently of interest to equip its
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:13]: To me this reads more clearly as
```suggestion
Given a not-necessarily-unital normed `𝕜`-algebra `A`, it is frequently of interest to equip its
```
but feel free to ignore

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 19]
```diff
@@ -0,0 +1,243 @@
...
+`Unitization` with a norm which simultaneously makes it into a normed algebra and also satisfies
+two properties:
+
+- `‖1‖ = 1` (i.e., `NormOneClass`)
+- The embedding of `A` in `Unitization 𝕜 A` is an isometry. (i.e., `Isometry Unitization.inr`)
+
+One way to do this is to pull back the norm from `WithLp 1 (𝕜 × A)`, that is,
+`‖(k, a)‖ = ‖k‖ + ‖a‖` using `Unitization.addEquiv` (i.e., the identity map). However, when the norm
+on `A` is *regular* (i.e., `ContinuousLinearMap.mul`) is an isometry, there is another natural
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:22]: I think the parens are misplaced here:
```suggestion
on `A` is *regular* (i.e., `ContinuousLinearMap.mul` is an isometry), there is another natural
```

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 20]
```diff
@@ -0,0 +1,243 @@
...
+algebra homomorphism `Unitization.splitMul 𝕜 A`. -/
+instance instNormedAlgebra : NormedAlgebra 𝕜 (Unitization 𝕜 A) where
+  norm_smul_le k x := by
+    rw [norm_def, map_smul, norm_smul, ← norm_def]
+
+instance instNormOneClass : NormOneClass (Unitization 𝕜 A) where
+  norm_one := by simpa only [norm_eq_sup, fst_one, norm_one, snd_one, map_one, map_zero,
+      add_zero, ge_iff_le, sup_eq_left] using op_norm_le_bound _ zero_le_one fun x => by simp
+
+lemma norm_inr (a : A) : ‖(a : Unitization 𝕜 A)‖ = ‖a‖ := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:231]: Nit: would be nice to have the nnnorm version too; and maybe dist and nudist lemmas

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/Analysis/NormedSpace/Unitization.lean (hunk 20 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:241]: I think I did what you wanted, but let me know if not.

**Comment by eric-wieser** [comment]
bors merge


Thanks!
